US04272437
trans 2-azidomethyl-1-cyclopropanecarboxylic acid chloride
A solution of trans-2-azidomethyl-1-cyclopropane carboxylic acid (2.188 g, 15.50 mmol) in dry dichloromethane (25 ml) was treated at room temperature with oxalyl chloride (1.57 ml, 18.60 mmol) and a drop of N,N-dimethylformamide. After the evolution of gas has ceased (2.5 h), the solvent was evaporated under reduced pressure and the residue was distilled under vacuum (bulb to bulb distillation) to give 2.411 g (98%) of a clear oil: bp 70°-75° C./0.8 mm Hg (air bath temperature); ir (film) νmax : 2100 (N3), 1775 cm-1 (C=O); 1Hmr (CDCl3) δ: 3.33 (2H, d, J=6, CH2N3) ~2.2 - 1.0 ppm (4H, m, cyclopropyl).

reactant | trans-2-azidomethyl-1-cyclopropane carboxylic acid | 15.50 mmol, 2.188 g | N(=[N+]=[N-])C[C@H]1[C@@H](C1)C(=O)O | C5H7N3O2
reactant | oxalyl chloride | 18.60 mmol, 1.57 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trans 2-azidomethyl-1-cyclopropanecarboxylic acid chloride | 2.411 g, 98% | N(=[N+]=[N-])C[C@H]1[C@@H](C1)C(=O)Cl | C5H6ClN3O
